US07202363B2
N-[4-(4-amino-7-cyanothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide
N-[4-(4-amino-7-iodothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide (A-796259.0, 100 mg, 0.36 mmol), copper(I) cyanide (65 mg, 0.72 mmol), tetraethylammonium cyanide (28 mg, 0.18 mmol), Tris(dibenzylideneacetone)-dipalladium(0) (7 mg, 0.007 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (16 mg, 0.029 mmol) were purged and heated to 110° C. in 1,4-dioxane (2 mL) for 16 hours. The mixture was evaporated in vacuo, diluted with dichloromethane/methanol (95:5, 50 mL), and washed with ammonium hydroxide (8% aqueous, 8 mL). The aqueous layer was washed with dichloromethane/methanol (95:5, 10 mL), and the combined organics were evaporated in vacuo, diluted with dimethylforamide (2.5 mL), and filtered. The precipitate was triturated in acetic acid (3 mL) and filtered to yield the title compound (20 mg, 25% yield): 1H NMR (DMSO, 400 MHz) δ 9.49 (s, 1H), 8.44 (s, 1H), 8.03 (d, 1H), 7.76 (s, 1H), 7.70 (d, 1H), 7.56 (d, 1H), 7.05–7.33 (m, 5H), 4.01 (s, 3H), 3.89 (s, 3H); RP-HPLC (Conditions i) Rt 24.9 min. MS: 452.2 MH−.

reactant | N-[4-(4-amino-7-iodothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 0.36 mmol, 100 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)I | C24H19IN4O2S
reactant | copper(I) cyanide | 0.72 mmol, 65 mg | [Cu]C#N
catalyst | tetraethylammonium cyanide | 0.18 mmol, 28 mg | [C-]#N.C(C)[N+](CC)(CC)CC
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)-dipalladium(0) | 0.007 mmol, 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.029 mmol, 16 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-[4-(4-amino-7-cyanothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 20 mg, 25% yield | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C#N | C25H19N5O2S
